US08048881B2
258.1. 4-{(S)-4-tert-butoxycarbonyl-2-[(2-phenyl-6-trimethylsilanylethynyl-pyrimidine-4-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester
NEt3 (0.249 ml) and trimethylsilylacetylene (0.254 ml) in DMF (4.5 ml) were syringed into a flask containing cupper iodide (8.9 mg), bis-(triphenylphosphine) palladium(II)-dichloride (22.5 mg) and 4-{(S)-4-tert-butoxycarbonyl-2-[(6-chloro-2-phenyl-pyrimidine-4-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester (500 mg) under argon. The mixture was allowed to stir at RT overnight. A saturated NH4Cl solution was added and the resulting mixture was extracted with EA. The org. phases were dried (Na2SO4) and evaporated off. Column chromatography (EA/Hept 1/2 to 1/1.5) afforded 339 mg of the desired compound.

reactant | trimethylsilylacetylene | 0.254 ml | C[Si](C)(C)C#C | C5H10Si
reactant | iodide | 8.9 mg | [I-]
reactant | 4-{(S)-4-tert-butoxycarbonyl-2-[(6-chloro-2-phenyl-pyrimidine-4-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester | 500 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC(=NC(=C1)Cl)C1=CC=CC=C1)=O | C27H34ClN5O6
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 4.5 ml | CN(C)C=O | C3H7NO
catalyst | bis-(triphenylphosphine) palladium(II)-dichloride | 22.5 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | NEt3 | 0.249 ml | CCN(CC)CC | C6H15N
product | 4-{(S)-4-tert-butoxycarbonyl-2-[(2-phenyl-6-trimethylsilanylethynyl-pyrimidine-4-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester | 339 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC(=NC(=C1)C#C[Si](C)(C)C)C1=CC=CC=C1)=O | C32H43N5O6Si
